US07314936B2
To a solution of (1-methoxymethyl-propyl)-carbamic acid benzyl ester (4.4 g, 18.5 mmol, 1.0 eq.) and MeI (6.9 mL, 111 mmol, 6 eq.) in THF/DMF (4:1, 50 mL) at 0° C. was slowly added NaH (1.35 g, 55.5 mmol, 3 eq.). The resulting mixture was warmed to room temperature and stirred over night. The reaction was quenched carefully by slow addition of water until no bubbling (H2) was observed. The reaction mixture was poured over ice water and extracted with 3×EtOAc. The combined organic phase was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel chromatography (30% to 50% EtOAc-hexanes) to give (1-methoxymethyl-propyl)-methyl-carbamic acid benzyl ester (4.4 g, 94%).

reactant | (1-methoxymethyl-propyl)-carbamic acid benzyl ester | 18.5 mmol, 4.4 g, 1.0 eq. | C(C1=CC=CC=C1)OC(NC(CC)COC)=O | C13H19NO3
reactant | MeI | 111 mmol, 6.9 mL, 6 eq. | CI | CH3I
reactant | NaH | 55.5 mmol, 1.35 g, 3 eq. | [H-].[Na+]
solvent | THF DMF | 50 mL | C1CCOC1.CN(C)C=O
product | (1-methoxymethyl-propyl)-methyl-carbamic acid benzyl ester | 4.4 g, 94% | C(C1=CC=CC=C1)OC(N(C)C(CC)COC)=O | C14H21NO3
